US05374615
1-(2-Cyanophenyl)-4 -methyl-1H-indole
The title B compound of Example 4 (1.042 g, 7.94 mmol, 1.0 eq.) was combined with 2-fluorobenzonitrile (1.29 ml, 11.91 mmol, 1.5 eq.) and potassium carbonate (2.195 g, 15.88 mmol, 2.0 eq.) in dimethylformamide (7.94 ml, 1M) and heated at 150° C. for 4 hours. The reaction was then cooled to room temperature, diluted with water (20 ml), and extracted three times with ethyl acetate. The organic extracts were washed with water and aqueous saturated sodium chloride, dried over sodium sulfate, filtered through magnesium sulfate and concentrated. The residue was chromatographed on Merck silica gel (50 g) eluting with chloroform:hexane (1:3) followed by (1:1) to give the title A compound (1.57 g).

reactant | 2-fluorobenzonitrile | 11.91 mmol, 1.29 ml, 1.5 eq. | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | potassium carbonate | 15.88 mmol, 2.195 g, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1M, 7.94 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 1-(2-Cyanophenyl)-4 -methyl-1H-indole | 1.57 g | C(#N)C1=C(C=CC=C1)N1C=CC2=C(C=CC=C12)C | C16H12N2
